US04734453
Preparation of Methyl alpha-Isocyanatoacrylate
The apparatus and procedure used in Example 6 are repeated except that the tube is filled with silica-alumina (Strem, 87% silica, 52.39 g after drying). A solution of methyl alpha-(methoxycarbonylamino)-acrylate (5.86 g, 0.37 mmol) in 10 ml toluene is passed down the column. Both traps are cooled to -78° C., and the contents are combined for analysis. 1H NMR of the reaction products (14.2 g including toluene) indicated a 90% conversion of starting material and a 50% yield of isocyanate.

reactant | methyl alpha-(methoxycarbonylamino)-acrylate | 0.37 mmol, 5.86 g | COC(=O)NC(C(=O)OC)=C | C6H9NO4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl alpha-Isocyanatoacrylate | 50% yield | N(=C=O)C(C(=O)OC)=C | C5H5NO3
